US05990105
0.10 g (0.00026 mol) of 2-bromo-4-nitro-6-(4-nitrobenzenesulphonyl)-pyridine was dissolved in a mixture of 1.5 ml of methanol and 1.5 ml of dioxane, treated with 0.20 g of iron powder and a solution of 0.20 g of NH4Cl in 2.5 ml of water and heated at reflux for 2 hrs. Thereafter, the reaction mixture was poured into a mixture of ethyl acetate and water, suction filtered and the organic phase was extracted with water and sat. sodium chloride solution and dried over MgSO4. After removal of the solvent the residue was chromatographed on silica gel with ethyl acetate/hexane 1:4. There was obtained 0.037 g (44%) of 2-(4-aminobenzenesulphonyl)-6-bromopyridin-4-ylamine as yellowish crystals; m.p.: 202-204° C.

reactant | 2-bromo-4-nitro-6-(4-nitrobenzenesulphonyl)-pyridine | 0.00026 mol, 0.10 g | BrC1=NC(=CC(=C1)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C11H6BrN3O6S
reactant | NH4Cl | 0.20 g | [NH4+].[Cl-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1.5 ml | CO | CH4O
solvent | dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 2.5 ml | O | H2O
catalyst | iron | 0.20 g | [Fe] | Fe
product | 2-(4-aminobenzenesulphonyl)-6-bromopyridin-4-ylamine | 0.037 g, 44% | NC1=CC=C(C=C1)S(=O)(=O)C1=NC(=CC(=C1)N)Br | C11H10BrN3O2S
